US06518423B1
N2-Cyano-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamidine
To 15 ml of a solution of 410 mg of methyl (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetothioimidate in methanol was added 250 mg of cyanamide and the resulting mixture was heated to 60° C. or below for 1 hour. Then the reaction mixture was brought back to room temperature and the solvent was distilled off under reduced pressure to reduce its amount. The crystals thus precipitated were taken up by filtration and washed successively with methanol and ethyl acetate. Thus, 295 mg of the title compound was obtained as yellow crystals.

reactant | methyl (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetothioimidate | 410 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=N)SC | C13H12N4S2
reactant | cyanamide | 250 mg | N#CN | CH2N2
solvent | methanol | CO | CH4O
product | N2-Cyano-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamidine | 295 mg | C(#N)N=C(CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1)N | C13H10N6S
